US09388185B2
Step 1. 1-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-4-ol
Sodium tetrahydroborate (0.012 g, 0.33 mmol) was added to a mixture of 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-one (0.050 g, 0.17 mmol, from Combi-Blocks) in methanol (1.0 mL) at 0° C. and then the reaction was stirred at 0° C. for 1 hour. The solvent was removed and the residue was treated with water and then filtered. The residue was dried to provide the desired product as a white solid. LCMS calculated for C17H27BNO3 (M+H)+: m/z=304.2. Found 304.1.

reactant | Sodium tetrahydroborate | 0.33 mmol, 0.012 g | [BH4-].[Na+]
reactant | 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-one | 0.17 mmol, 0.050 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCC(CC1)=O)C | C17H24BNO3
solvent | methanol | 1.0 mL | CO | CH4O
product | 1-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-4-ol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCC(CC1)O)C | C17H26BNO3
